US05073192
5-(2'Chloro-4'-trifluoromethylphenoxy)-3-ethyl-3-vinyl phthalide
To a 1M solution of vinyl magnesium bromide in tetrahydrofuran (46 ml) was added dropwise at 25° C. a solution of 5-(2'-chloro-4'trifluoromethylphenoxy)-3-ethyl-3-hydroxy- phthalide (2.3 g) in dry tetrahydrofuran (25 ml). After the addition was complete, the solution was stirred for 1 hour and poured into a mixture of ice and concentrated hydrochloric acid. The mixture was stirred for one hour, extracted with methylene chloride, washed with water and dried with sodium sulphate. Chromatography on silica with methylene chloride as eluant yielded a pale orange oil later obtained as colorless crystals (mp. 77°-79° C.).

reactant | vinyl magnesium bromide | C(=C)[Mg]Br
reactant | 5-(2'-chloro-4'trifluoromethylphenoxy)-3-ethyl-3-hydroxy- phthalide | 2.3 g | ClC1=C(OC=2C=C3C(OC(=O)C3=CC2)(O)CC)C=CC(=C1)C(F)(F)F | C17H12ClF3O4
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 46 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 5-(2'Chloro-4'-trifluoromethylphenoxy)-3-ethyl-3-vinyl phthalide | ClC1=C(OC=2C=C3C(OC(=O)C3=CC2)(C=C)CC)C=CC(=C1)C(F)(F)F | C19H14ClF3O3
